* Copyright (c) 1998-2024 Analog Devices, Inc.  All rights reserved.
*
.subckt ADA4097-1 1 2 3 4 5 6
Rcmp N005 MID {Rcm} Noiseless
Rcmn N034 MID {Rcm} Noiseless
Ccmp MID N005 {Ccm}
Ccmn N034 MID {Ccm}
G25 MID N022 N014 MID 1m
R18 N022 MID 1k Noiseless
C22 N022 MID 1f
G34 0 Vcc_Int N049 0 1
G35 0 Vee_Int N054 0 1
R37 Vcc_Int 0 1 Noiseless
R38 Vee_Int 0 1 Noiseless
R39 N047 Vcc_Int 1Meg Noiseless
R40 N047 Vee_Int 1Meg Noiseless
C23 N047 0 1
E1 MID 0 N047 0 1
R41 MID 0 1Meg Noiseless
C24 Vcc_Int 0 1n
C25 Vee_Int 0 1n
R42 N049 3 1µ
R43 N054 4 1µ
G40 0 4_BUF N054 0 1k
G41 0 3_BUF N049 0 1k
R55 4_BUF 0 1m Noiseless
R56 3_BUF 0 1m Noiseless
C30 4_BUF 0 1n
C31 3_BUF 0 1n
Rs N030 5 1m
G49 MID N009 N005 MID 1m
G11 MID Avo1 N022 N034 100µ
C14 Avo1 MID 1e-18
Cdiff N034 N005 {Cdiff}
Rdiff N005 N034 {Rdiff} Noiseless
C48 Clamp MID {Cfp1}
B3 MID Clamp I=Uplim(Dnlim({Avo2/1Meg}* V(Avo1,MID), {Isink}, 0.1m), {Isrc}, 0.1m)
C17 N023 MID {Cfp2}
Rx VO N029 {Rx_Zo} Noiseless
Rdummy VO MID {Rdummy_Zo} Noiseless
G18 MID N006 N028 VO {G1_Zo}
R60 N006 N007 {R1a_Zo} Noiseless
R62 N007 MID {R2a_Zo} Noiseless
G19 MID N017 N007 MID {G2_Zo}
C19 N007 N006 {C1a_Zo} Rser=1m
R73 N008 ZoF {R1d_Zo} Noiseless
R74 ZoF MID {R2d_Zo} Noiseless
C21 ZoF N008 {C1d_Zo} Rser=1m
R77 N017 N018 {R2c_Zo} Noiseless
R78 N018 N032 {R1c_Zo} Noiseless
C26 MID N032 {C1c_Zo} Rser=1m
Gb3 MID N019 N018 MID 1
R89 N019 N020 {R2c_Zo} Noiseless
R93 N020 N033 {R1c_Zo} Noiseless
C27 MID N033 {C1c_Zo} Rser=1m
Gb4 MID N008 N020 MID 1
R102 N015 N016 {R1} Noiseless
R103 N016 MID {R2} Noiseless
C29 N016 N015 {C1}
G21 MID N015 N023 MID 1
G22 MID N023 Clamp MID 1µ
C5 ENgd 0 1p Rpar=1G
S3 N030 VO EN 0 SDN
S7 MID Avo1 EN 0 1M
S8 MID Clamp EN 0 1M
S9 MID N023 EN 0 1M
S4 MID N015 EN 0 1O
S15 MID N006 EN 0 1O
S16 MID N017 EN 0 1O
S17 MID N019 EN 0 1O
S18 MID N008 EN 0 1O
S19 MID N029 EN 0 1O
R4 N009 MID 1k
G7 MID N024 N016 MID {1u*G1}
G8 MID N025 N024 MID 1µ
G9 MID N026 N025 MID 1µ
G10 MID N027 N026 MID 1µ
G12 MID N028 N027 MID 1µ
S6 MID N024 EN 0 1M
S10 MID N025 EN 0 1M
S11 MID N026 EN 0 1M
S12 MID N027 EN 0 1M
S13 MID N028 EN 0 1M
C6 N024 MID {Cfp3}
C7 N025 MID {Cfp3}
C8 N026 MID {Cfp3}
C9 N027 MID {Cfp3}
C10 N028 MID {Cfp3}
S1 3 VO VO 3 ESDO
S2 VO 4 4 VO ESDO
R1 Vimon MID 1k
C1 Vimon MID 10n
B1 MID Vimon I=1m*I(Rs)
A1 N005 MID MID MID MID MID MID MID OTA G=0 In=50f
A2 N034 MID MID MID MID MID MID MID OTA G=0 In=50f
BIbp N005 MID I={Ib}+ {Ibd}*(Temp-27)
BIos N034 MID I={Ios}+ {Iosd}*(Temp-27)
C4 N036 N035 {C1a_PSRp}
G1 MID N035 3 MID {G1_PSRp}
R5 N035 MID 1 Noiseless
R6 N036 N035 {R1a_PSRp} Noiseless
R7 N036 MID {R2a_PSRp} Noiseless
C11 N038 N037 {C1b_PSRp}
R8 N038 MID {R2b_PSRp} Noiseless
R9 N038 N037 {R1b_PSRp} Noiseless
G2 MID N037 N036 MID 1
R10 N037 MID 1 Noiseless
G3 MID PSRp N038 MID {G2_PSRp}
R11 PSRp MID 1 Noiseless
C12 PSRn N046 {C1a_PSRn}
G4 MID N046 4 MID {G1_PSRn}
R12 N046 MID 1 Noiseless
R13 PSRn N046 {R1a_PSRn} Noiseless
R14 PSRn MID {R2a_PSRn} Noiseless
C13 Vos MID 1n Rpar=1k
B5 MID Vos I=1m*({Vosa}+{Vosb}*temp+{Vosc}*Pow(temp,2)+ {Vosd}*Pow(temp,3)+{Vose}*Pow(temp,4)+ {Vosf}*Pow(temp,5))
G5 N013 N014 PSRp PSRn 1m
C15 N009 MID 1f
G6 MID N013 N012 MID 1k
R15 N014 N013 1k Noiseless
R16 N013 MID 1m
C16 N013 MID 1f
G15 N009 N010 Vnoise MID 1m
R24 N010 N009 1k Noiseless
R25 N012 N011 1k Noiseless
G16 N011 N012 N004 MID 1m
C34 N002 N001 {C1a_CMR}
G17 MID N001 N005 MID {G1_CMR}
R27 N002 N001 {R1a_CMR} Noiseless
R28 N002 MID {R2a_CMR} Noiseless
R29 N003 N004 {R1b_CMR} Noiseless
R30 N004 MID {R2b_CMR} Noiseless
C35 N004 N003 {C1b_CMR}
G20 MID N003 N002 MID 1
Bsrc N049 0 I=Dnlim(I(Rs), 0,1u)
Bsink N054 0 I=Uplim(I(Rs), 0,1u)
R34 N055 Ib 1
VIb N055 0 0
BIb 0 Ib I=Table(V(Vcm), 1, 1.15n, 3.55, 3.7n, 4, 4.15n, 4.1, 90.2n, 4.5, 732n, 5, 764n, 5.6, 934n, 14.1, 1.76u, 100, 10.5u)
F1 MID N005 VIb 1
F2 MID N034 VIb 1
R35 N011 N010 1k Noiseless
G23 N010 N011 Vos MID 1m
D1 6 4 DO
BIpd 6 4 I=If(V(EN)>0.5, {Ipd_on}, {Ipd_off})
A5 6 N054 0 0 0 ENgd 0 0 SCHMITT Vt={ENVt} Vh={ENVh} Trise=5n
A6 Vs 0 0 0 0 0 VminGD 0 SCHMITT Vt={Vsmin-10m} Vh=10m Trise=5n
A7 Vs 0 0 0 0 VmaxGD 0 0 SCHMITT Vt={Vsmax+10m} Vh=10m Trise=5n
A8 VminGD 0 0 ENgd VmaxGD 0 EN 0 AND Trise={2*ENTon} Tfall={2*ENToff}
R36 EN 0 1G Noiseless
R44 VmaxGD 0 1G Noiseless
R45 0 VminGD 1G Noiseless
G24 0 Vs 3 4 1m
R46 Vs 0 1k Noiseless
D2 CMp N022 DO
D3 N022 CMn DO
I1 3_BUF CMp {1k*Vcmmax}
R47 3_BUF CMp 1m
C38 3_BUF CMp 1n
I2 4_BUF CMn {1k*Vcmmin}
R48 4_BUF CMn 1m
C39 4_BUF CMn 1n
G26 MID N039 ORp MID 1k
G27 MID N041 ORn MID 1k
DGP N039 N040 DG
R49 N039 MID 1m
R50 N041 MID 1m
I3 N045 ORn {1m*ORn}
R51 ORn N045 1k
I4 N044 ORp {1m*ORp}
R52 ORp N044 1k
C40 ORp N044 1p
C41 ORn N045 1p
DGN N040 N041 DG
Rgr Clamp N040 1m
G28 MID N044 VO MID 1k
R53 N044 MID 1m
G29 MID N045 VO MID 1k
R54 N045 MID 1m
C44 Vs 0 1n
G30 0 Vcm 1 0 1m
R57 Vcm 0 1k
C45 Vcm 0 1n
SZO N006 N007 OL 0 ZO
B7 0 Igr I=1m*abs(I(Rgr)) Rpar=1k Cpar=10p
A9 Igr 0 0 0 0 0 OL 0 SCHMITT Vt=50u Vh=50u Trise=10n
C46 OL 0 1p Rpar=1G
BIqt N049 N054 I=If(V(EN)>0.5, {Iq}, {Iqsd})
B6 MID N029 I=Uplim(Dnlim({G4_Zo}* V(ZoF,MID), {Izn}, 25m), {Izp}, 25m)
R32 N005 1 {Rser}
R33 N034 2 {Rser}
C36 N005 MID {Cin}
C37 N034 MID {Cin}
DOP Vsatp VO DO
DON VO Vsatn DO
C18 VO Vsatp 1f
C20 VO Vsatn 1f
G13 MID Vsatp Satp MID 1k
R20 Vsatp MID 1m
G14 MID Vsatn Satn MID 1k
R21 Vsatn MID 1m
C28 Vsatp MID 1n
C47 Vsatn MID 1n
Cx VO MID 2f
G31 0 3_SAT 3_BUF 0 1
R2 3_SAT 0 997m Noiseless
C2 3_SAT 0 1n
G32 0 4_SAT 4_BUF 0 1
R3 4_SAT 0 997m Noiseless
C3 4_SAT 0 1n
R22 Satp 3_BUF 1k
C32 Satp 3_BUF 1n
R23 Satn 4_BUF 1k
C33 Satn 4_BUF 1n
B2 Satp 3_BUF I=1m*Uplim(Dnlim(Mp*(V(Vimon,MID))+OSp, OSp,0.1m),1.5, 1m)
B4 4_BUF Satn I=1m*Dnlim(Mn*(-V(Vimon,MID))+ OSn,OSn,0.1m)
C42 N040 N039 10f
C43 N041 N040 10f
A10 MID MID MID MID MID MID N050 MID OTA G=10u Iout=1m Vhigh=1k Vlow=-1k En={fA}/(freq**{M})
R58 N050 MID 100k Noiseless
A11 MID N050 MID MID MID MID N051 MID OTA G=10u Iout=1m Vhigh=1k Vlow=-1k En={BB}
R59 N051 MID 100k Noiseless
R61 N052 N056 {Rf} Noiseless
G33 MID Vnoise N052 MID 2m
G36 MID N052 N051 N056 1
C49 N052 MID 1f
C50 N056 N058 {Cboost}
L1 N058 N059 {Lboost}
R63 N059 MID {Rg} Noiseless
R64 N052 MID 1 Noiseless
R65 Vnoise MID 1k Noiseless
C51 Vnoise MID 10f
C52 N050 MID 1f
C53 N051 MID 1f
S5 MID N001 AC 0 1O
S14 MID N003 AC 0 1O
B8 0 AC I=1m*Smallsig() Rpar=1k Cpar=1n
.param Ccm=3p Rcm=1G
.param Cdiff=1p Rdiff=10Meg
.param Rser=1m Cin=1f
.param Ib=1f Ibd=19.5p
+Ios=1.142n Iosd=12.0p
+Iscp=30m Iscn=-45m
+Vcmmin=-0.1 Vcmmax=40
+Vsmin=3 Vsmax=50
+Izp={Iscp*Rx_Zo} Izn={Iscn*Rx_Zo}
+ORp={Izp+Vsmax} ORn={Izn-Vsmax}
+ENVt=1 ENVh=0.5
+ENTon=100u ENToff=2.5u
+Iq=40.62u Iqsd=14.62u
+Ipd_on=0.3u Ipd_off=0.6u
.model DG D(Vfwd={-2*ORn} Vrev=0 Revepsilon=0.5 Ron=1m Noiseless)
.model DO D(Vfwd=1k Vrev=0 Revepsilon=0.1 Ron=1m Noiseless)
.model ESDO SW(Ron=50 Roff=1G Vt=0.5 Vh=-0.1 Vser=0.6
+Ilimit=4m Lser=1n Noiseless)
.model ZO SW(Ron=10m Roff=100Meg Vt=500m Vh=-100m Noiseless)
.model 1K SW(Ron=1k Roff=1u Vt=500m Vh=-100m Noiseless)
.model 1M SW(Ron=1Meg Roff=1u Vt=500m Vh=-100m Noiseless)
.model 1O SW(Ron=1 Roff=1u Vt=500m Vh=-100m Noiseless)
.model SDN SW(Ron=1m Roff=10G Vt=0.5 Vh=-0.1 Noiseless)
.param Avo=150
.param SRp=0.1 SRn={-SRp}
.param fp1=4.5m fp2=21.5k fp3=1.45Meg
.param Avo2_dB = {Avo-40+1}
+Avo2 = {pwr(10, (Avo2_dB)/20)}
+Cfp1={1 / (2 * pi * fp1 * 1Meg)}
+Cfp2={1 / (2 * pi * fp2 * 1Meg)}
+Cfp3={1 / (2 * pi * fp3 * 1Meg)}
+Isrc = {Cfp1 * SRp * 1Meg}
+Isink = {Cfp1 * SRn * 1Meg}
.param gain_CMR = {pow(10, (-Rej_dc_CMR/20))}
.param C1a_CMR = {1 / (2 * pi * R1a_CMR * fz1_CMR)}
.param R2a_CMR = {R1a_CMR/ ((2 * pi * fp1_CMR * C1a_CMR
+* R1a_CMR) - 1)}
.param actual1_CMR = {R2a_CMR / (R1a_CMR + R2a_CMR)}
.param G1_CMR = {gain_CMR/actual1_CMR}
.param Rej_dc_CMR=132.5
.param R1a_CMR=100Meg
.param fz1_CMR=35m
.param fp1_CMR=8k
.param R1b_CMR=1Meg
.param fz2_CMR=150
.param fp2_CMR=200
.param C1b_CMR={1 / (2 * pi * R1b_CMR * fz2_CMR)}
.param R2b_CMR = {R1b_CMR/ ((2 * pi * fp2_CMR * C1b_CMR
+* R1b_CMR) - 1)}
.param actual2_CMR = {R2b_CMR / (R1b_CMR + R2b_CMR)}
.param G2_CMR= {1/actual2_CMR}
.param beta_Zo=1.12
.param Rx_Zo = {100 * Zo_max}
.param Rdummy_Zo = {10 * Zo_max}
.param G1_Zo={Rx_Zo/(Zo_dc*beta_Zo)}
.param Zo_dc=1k
.param Zo_max={Zo_dc}
.param R1a_Zo=10k
.param fz1_Zo={fp1}
.param fp1_Zo=0.2
.param C1a_Zo = {1 / (2 * pi * R1a_Zo * fz1_Zo)}
.param R2a_Zo = {R1a_Zo/ ((2 * pi * fp1_Zo * C1a_Zo
+* R1a_Zo) - 1)}
.param actual1_Zo = {R2a_Zo / (R1a_Zo + R2a_Zo)}
.param G2_Zo = {1/actual1_Zo}
.param R1d_Zo=10k
.param fz4_Zo=10Meg
.param fp4_Zo=100G
.param C1d_Zo = {1 / (2 * pi * R1d_Zo * fz4_Zo)}
.param R2d_Zo = {R1d_Zo/ ((2 * pi * fp4_Zo * C1d_Zo
+* R1d_Zo) - 1)}
.param actual4_Zo = {R2d_Zo / (R1d_Zo + R2d_Zo)}
.param G4_Zo = {1/actual4_Zo}
.param R1c_Zo=10k
.param fp3_Zo=500k
.param fz3_Zo=650k
.param C1c_Zo = {1 / (fz3_Zo * R1c_Zo * 2 * pi)}
.param R2c_Zo = {(1 / (fp3_Zo * C1c_Zo * 2 * pi))
+- R1c_Zo}
.param R1=1Meg
.param fz=34.5k
.param fp=1.5Meg
.param C1 = {1 / (2 * pi * R1 * fz)}
.param R2 = {R1/ ((2 * pi * fp * C1
+* R1) - 1)}
.param actual = {R2 / (R1 + R2)}
.param G1 = {1/actual}
.param gain_PSRp = {pow(10, (-Rej_dc_PSRp/20))}
.param C1a_PSRp = {1 / (2 * pi * R1a_PSRp * fz1_PSRp)}
.param R2a_PSRp = {R1a_PSRp/ ((2 * pi * fp1_PSRp * C1a_PSRp
+* R1a_PSRp) - 1)}
.param actual1_PSRp = {R2a_PSRp / (R1a_PSRp + R2a_PSRp)}
.param G1_PSRp = {gain_PSRp/actual1_PSRp}
.param Rej_dc_PSRp=145
.param R1a_PSRp=100k
.param fz1_PSRp=23
.param fp1_PSRp=100k
.param C1b_PSRp = {1 / (2 * pi * R1b_PSRp * fz2_PSRp)}
.param R2b_PSRp = {R1b_PSRp/ ((2 * pi * fp2_PSRp * C1b_PSRp
+* R1b_PSRp) - 1)}
.param actual2_PSRp = {R2b_PSRp / (R1b_PSRp + R2b_PSRp)}
.param G2_PSRp = {1/actual2_PSRp}
.param R1b_PSRp=100k
.param fz2_PSRp={fz1_PSRp}
.param fp2_PSRp={fp1_PSRp}
.param gain_PSRn = {pow(10, (-Rej_dc_PSRn/20))}
.param C1a_PSRn = {1 / (2 * pi * R1a_PSRn * fz1_PSRn)}
.param R2a_PSRn = {R1a_PSRn/ ((2 * pi * fp1_PSRn * C1a_PSRn
+* R1a_PSRn) - 1)}
.param actual1_PSRn = {R2a_PSRn / (R1a_PSRn + R2a_PSRn)}
.param G1_PSRn = {gain_PSRn/actual1_PSRn}
.param Rej_dc_PSRn=145
.param R1a_PSRn=50Meg
.param fz1_PSRn=9m
.param fp1_PSRn=100k
.param Vosa=20.7u Vosb=-2.2n Vosc=-2.11n
+Vosd=-77.3p Vose=1.53p Vosf=-5.72f
.param Mp=113.5 OSp=3.2m
.param Mn=45 OSn=17m
.param BB=53n fC=0.5 M=0.7 fA={BB*(fC**M)}
.param Rf=10k
.param Boost=5.5
.param f0=110k
.param Q=2
.param Rg={Rf/(Boost-1)}
.param Rpar={Pwr(1/Rf+1/Rg,-1)}
.param Xcl={Rpar*Q}
.param Lboost={Xcl/(2*pi*f0)}
.param Cboost={1/(2*pi*f0*Xcl)}
.ends ADA4097-1
